US06387915B2
2-{[5-({[4-(tert-butyl)phenyl]sulfony}amino)-4-iodo-3-isoxazolyl]oxy}ethyl Acetate
To a stirring solution of 2-{[5-({[4-(tert-butyl)phenyl]sulfonyl}amino)-3-isoxazolyl]oxy}ethyl acetate (Preparation 3) (1.17 g) in tetrahydrofuran (10 mL) was added N-iodosuccinimide (0.76 g). The reaction mixture was left stirring at room temperature overnight. The solvent was removed in vacuo to yield the crude material as a brown oil (1.5 g). The crude material was purified using the Biotage™ Flash 40i system (silica, 90 g) and eluted with hexane:ethyl acetate (1:9) to yield the product as a brown oil.

reactant | 2-{[5-({[4-(tert-butyl)phenyl]sulfonyl}amino)-3-isoxazolyl]oxy}ethyl acetate | 1.17 g | C(C)(=O)OCCOC1=NOC(=C1)NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C | C17H22N2O6S
reactant | N-iodosuccinimide | 0.76 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-{[5-({[4-(tert-butyl)phenyl]sulfony}amino)-4-iodo-3-isoxazolyl]oxy}ethyl Acetate | C(C)(=O)OCCOC1=NOC(=C1I)NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C | C17H21IN2O6S
